US08202873B2
1-(3,5-Dimethylisoxazol-4-ylmethyl)-1H-pyrazole-4-carbaldehyde
Add N,N-dimethylformamide (3 mL) to sodium hydride (0.092 g, 2.29 mmol) and stir at 0° C. Add 1-H-pyrazole-4-carboxaldehyde (0.200 g, 2.08 mmol) and stir at 0° C. for 20 min. Dissolve 4-chloromethyl-3,5-dimethylisoxazole (0.318 g, 2.18 mmol) in N,N-dimethylformamide (4 mL) and add to reaction mixture. Stir reaction at room temperature for 18 hr. Quench with aqueous saturated sodium bicarbonate solution. Add ethyl acetate and separate organic layer. Extract aqueous layer twice with ethyl acetate. Dry combined organic layers (magnesium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 25:75 to 75:25 ethyl acetate:hexanes), to give the title preparation (387 mg, 91%). GC-MS: m/z=205 [M+].

reactant | sodium hydride | 2.29 mmol, 0.092 g | [H-].[Na+]
reactant | 1-H-pyrazole-4-carboxaldehyde | 2.08 mmol, 0.200 g | N1N=CC(=C1)C=O | C4H4N2O
reactant | 4-chloromethyl-3,5-dimethylisoxazole | 2.18 mmol, 0.318 g | ClCC=1C(=NOC1C)C | C6H8ClNO
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 1-(3,5-Dimethylisoxazol-4-ylmethyl)-1H-pyrazole-4-carbaldehyde | CC1=NOC(=C1CN1N=CC(=C1)C=O)C | C10H11N3O2
